US06759428B2
To a suspension of sodium hydride (0.54 g, 23 mmol) in anhydrous THF (80 mL) was added portionwise N-(diphenylmethylene)aminoacetonitrile (5.00 g, 23 mmol). The reaction was allowed to stir at room temperature until hydrogen evolution ceased and then cooled to 0° C. for 10 minutes. To the reaction mixture was added a solution of 4-chloromethyl pyridine (3.03 g, 24 mmol) in anhydrous THF (10 mL) and dichloromethane (3 mL). The reaction mixture was stirred at room temperature for 50 minutes and then cooled to 0° C. and was added saturated ammonium chloride (80 mL) and extracted with three 80 mL portions of ethyl acetate. The combined organic layers was dried on sodium sulfate and concentrated to give a viscous oil. Purification by column chromatography (40:60 ethyl acetate:hexane) and trituration with hexanes gave 2-(benzhydrylidene-amino)-3-pyridin-4-yl-propionitrile (4.02 g, 52%).

reactant | sodium hydride | 23 mmol, 0.54 g | [H-].[Na+]
reactant | N-(diphenylmethylene)aminoacetonitrile | 23 mmol, 5.00 g | C1=CC=C(C=C1)C(=NCC#N)C2=CC=CC=C2 | C15H12N2
reactant | hydrogen | [H][H] | H2
reactant | 4-chloromethyl pyridine | 24 mmol, 3.03 g | ClCC1=CC=NC=C1 | C6H6ClN
reactant | ammonium chloride | 80 mL | [Cl-].[NH4+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 2-(benzhydrylidene-amino)-3-pyridin-4-yl-propionitrile | 4.02 g, 52% | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC(C#N)CC1=CC=NC=C1 | C21H17N3
